US09255093B2
2-bromo-4-nitro-1-(trifluoromethoxy)benzene (0.56 g, 1.97 mmol), 4,4,5,5-tetramethyl-2-(prop-1-en-2-yl)-1,3,2-dioxaborolane (0.50 g, 2.96 mmol), PdCl2(dppf).CH2Cl2 adduct (0.16 g, 0.20 mmol), and Na2CO3 (0.63 g, 5.92 mmol) were combined in a 20 mL microwave vial and DME (15.78 mL) and Water (3.94 mL) were added. The mixture was stirred at RT for 6 s and then heated to 120° C. in the microwave for 30 min. The crude mixture was diluted with EtOAc and Water. The organic layer was washed with water and brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The crude was diluted with DCM and silica gel was added. The mixture was concentrated under reduced pressure to dry-load material for purification. The crude was purified via silica gel FCC, 100% Heptane-100% EtOAc to give 4-nitro-2-(prop-1-en-2-yl)-1-(trifluoromethoxy)benzene (456 mg). 1H NMR (400 MHz, DMSO-d6) δ 2.08-2.13 (m, 3H), 5.21 (p, J=1.0 Hz, 1H), 5.43 (p, J=1.5 Hz, 1H), 7.68 (dq, J=9.0, 1.6 Hz, 1H), 8.21 (d, J=2.9 Hz, 1H), 8.28 (dd, J=9.0, 2.9 Hz, 1H).

reactant | 2-bromo-4-nitro-1-(trifluoromethoxy)benzene | 1.97 mmol, 0.56 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])OC(F)(F)F | C7H3BrF3NO3
reactant | 4,4,5,5-tetramethyl-2-(prop-1-en-2-yl)-1,3,2-dioxaborolane | 2.96 mmol, 0.50 g | CC1(OB(OC1(C)C)C(=C)C)C | C9H17BO2
reactant | CH2Cl2 | 0.20 mmol, 0.16 g | C(Cl)Cl | CH2Cl2
reactant | Na2CO3 | 5.92 mmol, 0.63 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | Water | 3.94 mL | O | H2O
solvent | DME | 15.78 mL | COCCOC | C4H10O2
product | 4-nitro-2-(prop-1-en-2-yl)-1-(trifluoromethoxy)benzene | 456 mg | [N+](=O)([O-])C1=CC(=C(C=C1)OC(F)(F)F)C(=C)C | C10H8F3NO3
